US06103910
a) (R)-1-[[3-[2-[(R)-2-Benzyloxycarbonyl-pyrrolidin-1-yl]-2-oxo-ethyl]-phenyl]-acetyl]-pyrrolidine-2-carboxylic acid benzyl ester
Using General Procedure A with 2.0 g (8.2 mmol) D-Proline benzyl ester hydrochloride and 800 mg (4.1 mmol) 1,3-phenylenediacetic acid afforded, after flash chromatography (EtOAc), 1.93 g (84%) of the title compound as a colorless oil.

reactant | D-Proline benzyl ester hydrochloride | 8.2 mmol, 2.0 g | Cl.C(C1=CC=CC=C1)OC([C@@H]1NCCC1)=O
reactant | 1,3-phenylenediacetic acid | 4.1 mmol, 800 mg | C1(=CC(=CC=C1)CC(=O)O)CC(=O)O | C10H10O4
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (R)-1-[[3-[2-[(R)-2-Benzyloxycarbonyl-pyrrolidin-1-yl]-2-oxo-ethyl]-phenyl]-acetyl]-pyrrolidine-2-carboxylic acid benzyl ester | 1.93 g, 84% | C(C1=CC=CC=C1)OC(=O)[C@@H]1N(CCC1)C(CC1=CC(=CC=C1)CC(=O)N1[C@H](CCC1)C(=O)OCC1=CC=CC=C1)=O | C34H36N2O6
